US07863291B2
To 6,7-dichloro-3-isothiocyanatoisoquinoline (0.13 g, 0.510 mmol) in DMF (10 mL) was added cesium carbonate (0.42 g, 1.27 mmol) and (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.118 g, 0.515 mmol) at room temperature. The reaction was stirred at 70° C. for 2 hours. The reaction was cooled to room temperature and concentrated in vacuo. The crude urea was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH). The product was then treated with DMF (10 mL) and N,N′-diisopropylcarbodiimide (0.238 mL, 1.529 mmol). The reaction was heated to 90° C. for 18 hours. The reaction was cooled to room temperature and concentrated to yield the crude product, which was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH) to yield (R)—N-(6,7-dichloroisoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.12 g, 0.312 mmol, 61.2% yield). 1H NMR (500 MHz, CDCl3) δ ppm 9.03 (s, 1 H), 8.87 (s, 1 H), 7.96 (s, 1 H), 7.83 (s, 1 H), 7.24 (s, 1 H), 3.88-4.06 (m, 1 H), 3.60-3.74 (m, 1 H), 3.42 (d, J=14.65 Hz, 1 H), 2.82-3.15 (m, 5 H), 2.23-2.34 (m, 1 H), 2.18 (s, 1 H), 1.72-1.87 (m, 1 H), 1.48-1.70 (m, 2 H). MS (LC/MS) R.T.=1.63; [M+H]+=377.1.

reactant | 6,7-dichloro-3-isothiocyanatoisoquinoline | 0.510 mmol, 0.13 g | ClC=1C=C2C=C(N=CC2=CC1Cl)N=C=S | C10H4Cl2N2S
reactant | cesium carbonate | 1.27 mmol, 0.42 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.515 mmol, 0.118 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | N,N′-diisopropylcarbodiimide | 1.529 mmol, 0.238 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (R)—N-(6,7-dichloroisoquinolin-3-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.312 mmol, 0.12 g, 61.2% yield | ClC=1C=C2C=C(N=CC2=CC1Cl)NC=1O[C@]2(CN3CCC2CC3)CN1 | C18H18Cl2N4O
